US08937087B2
To a mixture of a mixture (1.25 g) of tert-butyl {[5-bromo-1-(methoxymethyl)-1H-benzimidazol-2-yl]methyl}methylcarbamate and tert-butyl {[6-bromo-1-(methoxymethyl)-1H-benzimidazol-2-yl]methyl}methylcarbamate and toluene/water (20/1, 26.3 mL) were added cyclopropylboronic acid (840 mg), palladium (II) acetate (146 mg), tricyclohexylphosphine (365 mg), and potassium phosphate (4.14 g), followed by heating and stirring at 100° C. overnight. The reaction mixture was diluted with EtOAc, and washed with water, 1 M hydrochloric acid solution, and brine in this order. The organic layer was dried over Na2SO4 and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: Hex/EtOAc=80/20-55/45) to obtain a mixture (505 mg) of tert-butyl {[5-cyclopropyl-1-(methoxymethyl)-1H-benzimidazol-2-yl]methyl}methylcarbamate and tert-butyl {[6-cyclopropyl-1-(methoxymethyl)-1H-benzimidazol-2-yl]methyl}methylcarbamate.

reactant | tert-butyl {[5-bromo-1-(methoxymethyl)-1H-benzimidazol-2-yl]methyl}methylcarbamate | 1.25 g | BrC1=CC2=C(N(C(=N2)CN(C(OC(C)(C)C)=O)C)COC)C=C1 | C16H22BrN3O3
reactant | tert-butyl {[6-bromo-1-(methoxymethyl)-1H-benzimidazol-2-yl]methyl}methylcarbamate | BrC=1C=CC2=C(N(C(=N2)CN(C(OC(C)(C)C)=O)C)COC)C1 | C16H22BrN3O3
reactant | cyclopropylboronic acid | 840 mg | C1(CC1)B(O)O | C3H7BO2
reactant | tricyclohexylphosphine | 365 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | potassium phosphate | 4.14 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | palladium (II) acetate | 146 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | toluene water | 26.3 mL | C1(=CC=CC=C1)C.O
product | tert-butyl {[5-cyclopropyl-1-(methoxymethyl)-1H-benzimidazol-2-yl]methyl}methylcarbamate | 505 mg | C1(CC1)C1=CC2=C(N(C(=N2)CN(C(OC(C)(C)C)=O)C)COC)C=C1 | C19H27N3O3
